US05112977
2-Fluoro-3-methoxy-naphthacene-5,12-dione
1 g (3.4 mmol) of 2,3-difluoronaphthacene-5,12-dione, 0.94 g (6.8 mmol) of potassium carbonate, 3.24 g of methanol and 20 ml of tetrahydrofuran (THF) are stirred at 25° C. for 18 hours and under reflux for 3 days. The mixture is cooled and dilute hydrochloric acid is added. The product is filtered off, washed with water, dried and chromatographed with methylene chloride on silica gel. Sublimation under 1.3×10-1 bar/180°-310° C. gives 0.26 g (25%) of pure product, melting point >250° C.

reactant | 2,3-difluoronaphthacene-5,12-dione | 3.4 mmol, 1 g | FC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1F)=O)=O | C18H8F2O2
reactant | potassium carbonate | 6.8 mmol, 0.94 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 3.24 g | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-Fluoro-3-methoxy-naphthacene-5,12-dione | 0.26 g, 25% | FC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1OC)=O)=O | C19H11FO3
